US06573391B1
Dec-9-enyl (S)-(−)-2-allyloxy-propionate (x=1, y=8, R1=Me, R2=H):
3.0 g (19 mmol) of ethyl 2-allyloxypropionate are introduced into 4.5 g (28.5 mmol) of 9-decen-1-ol, and 0.56 g (2 mmol) of Ti(OiPr)4 are added. The mixture is then heated to 80° C. and stirred at a reduced pressure of 400 mbar for 5 h. A few drops of water are then added and the crude product is purified by means of flash chromatography (cyclohexane/EtOAc=25:1; Rf=0.21), giving 4.1 g (81%) of a colorless oil.

reactant | ethyl 2-allyloxypropionate | 19 mmol, 3.0 g | C(C=C)OC(C(=O)OCC)C | C8H14O3
reactant | 9-decen-1-ol | 28.5 mmol, 4.5 g | C(CCCCCCCC=C)O | C10H20O
catalyst | water | A few drops | O | H2O
catalyst | Ti(OiPr)4 | 2 mmol, 0.56 g | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | Dec-9-enyl (S)-(−)-2-allyloxy-propionate | 4.1 g, 81% | C(C=C)O[C@H](C(=O)OCCCCCCCCC=C)C | C16H28O3
